US05478838
A solution (220 ml) of (+)-4-(1-acetamidoethyl)benzoic acid (51.2 g) and 5% ruthenium carbon (35.4 g) in 28% aqueous ammonia was stirred in an autoclave at initial hydrogen pressure of 70 atm and at 90° C. for 3 hours and then at 150° C. for 3 hours. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 53.5 g of a cis- and trans- mixture of (+)-4-(1-acetamidoethyl)cyclohexanecarboxylic acid. Then, a solution of 31% hydrochloric acid-methanol (33 ml) and methanol (200 ml) were added thereto and the mixture was refluxed for 4 hours. After completion of the reaction, the mixture was concentrated under reduced pressure and the residue obtained was poured into ice water and extracted with chloroform. The extract was washed with water, dried and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography to give 38.0 g of a cis- and transmixture (2:1) of methyl (+)-4-(1-acetamidoethyl)cyclohexanecarboxylate. [α]D =+11.4° (methanol, c=1)

reactant | (+)-4-(1-acetamidoethyl)benzoic acid | 220 ml, 51.2 g | C(C)(=O)NC(C)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | hydrogen | [H][H] | H2
reactant | (+)-4-(1-acetamidoethyl)cyclohexanecarboxylic acid | C(C)(=O)NC(C)C1CCC(CC1)C(=O)O | C11H19NO3
reactant | hydrochloric acid methanol | 33 ml | Cl.CO
solvent | ammonia | N | H3N
catalyst | ruthenium carbon | 35.4 g | [C].[Ru]
solvent | methanol | 200 ml | CO | CH4O
product | methyl (+)-4-(1-acetamidoethyl)cyclohexanecarboxylate | C(C)(=O)NC(C)C1CCC(CC1)C(=O)OC | C12H21NO3
